US05116833
p-[(Chloromethyl)thio]benzyl p-nitrobenzyl carbonate
A cold (5° C.) solution of p-(methylthio)benzyl p-nitrobenzyl carbonate (1.0 g, 3 mmol) in CH2Cl2 (50 mL) was treated dropwise (2 min) with S02Cl2 (0.425 g, 3.15 mmol). After stirring the resulting solution for 30 min at 5° C., the solvent was evaporated to leave the title compound as an oil which solidified (1.10 g yield, 99.7%). The solid was used without purification in the next step.

reactant | p-(methylthio)benzyl p-nitrobenzyl carbonate | 3 mmol, 1.0 g | C(OCC1=CC=C(C=C1)SC)(OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C16H15NO5S
reactant | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | p-[(Chloromethyl)thio]benzyl p-nitrobenzyl carbonate | C(OCC1=CC=C(C=C1)SCCl)(OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C16H14ClNO5S
